US07414050B2
m) 4-Cyano-1H-imidazole-2-carboxylic acid [2-cyclohex-1-enyl-4-(2,6-dioxo-piperidin-4-yl)-phenyl]-amide
A solution of 70.0 mg (0.131 mmol) of 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [2-cyclohex-1-enyl-4-(2,6-dioxo-piperidin-4-yl)-phenyl]-amide (as prepared in the previous step) in CH2Cl2 (10 mL) was treated with EtOH (2 drops) and TFA (3 mL) at RT for 1.5 h. Solvents were removed in vacuo. Purification of the residue by reverse phase high pressure liquid chromatography (RP-HPLC) (C18) with 10-80% CH3CN in 0.1% TFA/H2O over 30 min afforded 5.3 mg (8%) of the title compound as a white solid: 1H-NMR (CD3OD; 400 MHz): δ 8.18 (d, 1H, J=8.4 Hz), 8.01 (s, 1H), 7.24 (dd, 1H, J=8.4, 2.4 Hz), 7.15 (d, 1H, J=2.4 Hz), 5.85-5.78 (m, 1H), 3.48-3.38 (m, 1H), 2.90-2.71 (m, 4H), 2.32-2.22 (m, 4H), 1.90-1.73 (m, 4H). Mass spectrum (ESI, m/z): Calcd. for C22H21N5O3, 404.2 (M+H). found 404.0.

reactant | 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [2-cyclohex-1-enyl-4-(2,6-dioxo-piperidin-4-yl)-phenyl]-amide | 0.131 mmol, 70.0 mg | C1(=CCCCC1)C1=C(C=CC(=C1)C1CC(NC(C1)=O)=O)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C | C28H35N5O4Si
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | EtOH | 2 drops | CCO | C2H6O
product | 4-Cyano-1H-imidazole-2-carboxylic acid [2-cyclohex-1-enyl-4-(2,6-dioxo-piperidin-4-yl)-phenyl]-amide | 5.3 mg, 8% | C1(=CCCCC1)C1=C(C=CC(=C1)C1CC(NC(C1)=O)=O)NC(=O)C=1NC=C(N1)C#N | C22H21N5O3
